data/mechanism_extracts/ChinJOC/10.1002_cjoc.200790177.json
{"doi": "10.1002_cjoc.200790177", "journal": "ChinJOC", "is_review": false, "rxn_class_summary": "Electrochemical dicarboxylation of styrene with CO2 at a sacrificial Mg anode to give 2-phenylsuccinic acid", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "radical_anion", "direct_SET"], "electrochemical_role": "Cathodic one-electron reduction of styrene to its radical anion; sacrificial Mg anode supplies Mg2+ to stabilize carboxylate intermediates", "key_intermediates": [{"name": "styrene radical anion", "smiles": "[CH2][C-]([H])c1ccccc1", "role": "reactive"}, {"name": "monocarboxylated benzyl radical (PhCH(CH2COO-)•)", "smiles": "[CH]([CH2]C(=O)[O-])c1ccccc1", "role": "transient"}, {"name": "benzyl carbanion carboxylate (PhCH(-)CH2COO-)", "smiles": "[CH-](CC(=O)[O-])c1ccccc1", "role": "reactive"}, {"name": "2-phenylsuccinate dianion (product E)", "smiles": "[O-]C(=O)CC(C(=O)[O-])c1ccccc1", "role": "reactive"}], "electron_flow": "Cathode delivers one electron to styrene forming a radical anion B; B attacks CO2 yielding the monocarboxylated radical C, which is further reduced at the cathode to the benzyl carbanion D; D attacks a second CO2 to give the dicarboxylate E. Mg anode is oxidized to Mg2+, which pairs with the carboxylates.", "rate_determining_step": "Heterogeneous one-electron transfer to styrene (α = 0.21, ∂Ep/∂lg v ≈ 70.7 mV/decade, indicating slow heterogeneous electron transfer)", "probe_reagents": [{"name": "cyclic voltammetry of styrene with/without CO2", "smiles": null, "purpose": "redox_probe", "observation": "Without CO2: irreversible peak at -2.64 V (vs SCE). With 0.28 mol/L CO2: original peak shifts to less negative potentials and a new reduction peak appears at more negative potentials, supporting sequential SET/CO2 addition pathway."}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Mechanism is supported primarily by CV data and consistent with general electrocarboxylation literature; no radical traps or isotope labeling were employed. The Mg2+ generated at the sacrificial anode is invoked to stabilize/precipitate the carboxylate intermediates and shift equilibria toward product. Lower temperatures favor carboxylation by increasing CO2 solubility."}
